US04433152
A mixture of 5 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 3.23 g of methyl p-hydroxybenzoate, 4.38 g of dicyclohexylcarbodiimide, 100 ml of dry dimethylformamide and 20 ml of dry pyridine was stirred at room temperature for 24 hours, and the mixture was treated in the same procedure as in Example 11. The crystals obtained were recrystallized from isopropanolether to obtain 5.7 g (yield: 72.7%) of p-methoxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless needles having a melting point of 163° to 164.5° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 5 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | methyl p-hydroxybenzoate | 3.23 g | COC(=O)C=1C=CC(=CC1)O | C8H8O3
reactant | dicyclohexylcarbodiimide | 4.38 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-methoxycarbonylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 5.7 g, yield: 72.7% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C(=O)OC | InChI=1S/C17H23N3O4.ClH/c1-23-16(22)13-3-5-14(6-4-13)24-15(21)7-2-12-8-10-20(11-9-12)17(18)19;/h3-6,12H,2,7-11H2,1H3,(H3,18,19);1H
